US05994378
Methyl magnesium bromide (1M) in tetrahydrofuran (12.6 ml) was added dropwise over 30 minutes to a solution of 4-tert-butyl-2-(5-formylbenzofuran-2-yl)thiazole (3.0 g) in tetrahydrofuran (30 ml) under ice-cooling. After being stirred at same temperature for 15 minutes, the reaction mixture was poured into ice-water. The mixture was neutralized with diluted hydrochloric acid and extracted with ethyl acetate. The extract was washed with water and brine, dried over magnesium sulfate and evaporated under reduced pressure. The residue was subjected to column chromatography on silica gel and eluted with a mixture of n-hexane and ethyl acetate. The fractions containing the object compounds were combined and concentrated under recused pressure to give 4-tert-butyl-2-[5-(1-hydroxyethyl) benzofuran-2-yl]thiazole (2.04 g).

reactant | Methyl magnesium bromide | 1M | C[Mg]Br
reactant | 4-tert-butyl-2-(5-formylbenzofuran-2-yl)thiazole | 3.0 g | C(C)(C)(C)C=1N=C(SC1)C=1OC2=C(C1)C=C(C=C2)C=O | C16H15NO2S
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 12.6 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 4-tert-butyl-2-[5-(1-hydroxyethyl) benzofuran-2-yl]thiazole | 2.04 g | C(C)(C)(C)C=1N=C(SC1)C=1OC2=C(C1)C=C(C=C2)C(C)O | C17H19NO2S
